US07521441B2
To a stirred solution of 13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid (200 mg, 0.37 mmol), (3R,5S)-1-benzyl-3,5-dimethylpiperazine (115 mg, 0.56 mmol) and diisopropylethylamine (0.26 mL) in DMF (4 mL) was added HATU (212 mg, 0.56 mmol). The reaction mixture was stirred at rt for 2 h, treated with additional (3R,5S)-1-benzyl-3,5-dimethylpiperazine (100 mg, 0.49 mmol) and stirred at 100° C. for 3 h. The reaction was cooled to rt, diluted with H2O (30 mL) and 1M HCl (aq.) (1.5 mL) and extracted with EtOAc (20 mL). The organic layer was separated, washed with brine (10 mL), dried (MsSO4), filtered and concentrated. The residue was diluted with MeOH (5 mL) and purified by preparative HPLC (H2O/CH3CN with 10 mM NH4OAc buffer) to yield rel-6-(((2R,6S)-4-benzyl-2,6-dimethyl-1-piperazinyl)carbonyl)-13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxamide (38 mg, 0.052 mmol, 14%) as an orange solid. 1HNMR (300 MHz, CD3OD) δ 1.02-2.22 (m, 20H), 2.58-3.03 (m, 3H), 3.05 (s, 6H), 3.27-3.40 (m, 2H), 3.92 (s, 3H), 4.34-4.56 (m, 1H), 4.99-5.19 (m, 1H), 6.89 (s, 1H) 7.08 (d, J=2.6 Hz, 1H), 7.14 (dd, J=8.8, 2.6 Hz, 1H), 7.19-7.33 (m, 5H), 7.55 (d, J=8.4 Hz, 1H), 7.65 (d, J=8.4 Hz, 1H), 7.90 (d, J=8.4 Hz, 1H), 8.17 (s, 1H). LCMS: m/e 724 (M+H)+, ret time 3.37 min, column B, 4 minute gradient.

reactant | 13-cyclohexyl-10-(((dimethylamino)sulfonyl)carbamoyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-6-carboxylic acid | 0.37 mmol, 200 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(C=C(C2)C(=O)O)C=C(C=C1)OC)C(NS(=O)(=O)N(C)C)=O | C28H31N3O6S
reactant | (3R,5S)-1-benzyl-3,5-dimethylpiperazine | 0.56 mmol, 115 mg | C(C1=CC=CC=C1)N1C[C@H](N[C@H](C1)C)C | C13H20N2
reactant | diisopropylethylamine | 0.26 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.56 mmol, 212 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (3R,5S)-1-benzyl-3,5-dimethylpiperazine | 0.49 mmol, 100 mg | C(C1=CC=CC=C1)N1C[C@H](N[C@H](C1)C)C | C13H20N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
solvent | HCl | 1M, 1.5 mL | Cl | ClH
product | rel-6-(((2R,6S)-4-benzyl-2,6-dimethyl-1-piperazinyl)carbonyl)-13-cyclohexyl-N-((dimethylamino)sulfonyl)-3-methoxy-7H-indolo[2,1-a][2]benzazepine-10-carboxamide | 0.052 mmol, 38 mg, 14% | C(C1=CC=CC=C1)N1C[C@H](N([C@H](C1)C)C(=O)C=1CN2C(C3=C(C1)C=C(C=C3)OC)=C(C=3C=CC(=CC32)C(=O)NS(=O)(=O)N(C)C)C3CCCCC3)C | C41H49N5O5S
